Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y.o female with h/o HTN , HLD, PAD who 
presented to the ER as a trauma transfer after being falling 
backwards ___ stairs and hitting her head on the back. CT head 
at OSH "acute left temporal lobe hemorrhage, intraparenchymal 
hemorrhage, and subarachnoid hemorrhage with vasogenic edema 
resulting in effacement of the adjacent sulci." CT C-spine was 
negative for fracture. CT chest obtained showing only 
nondisplaced right clavicle fracture. A Repeat CT head was done 
at ___ which showed previously known small Left temporal 
hemorrhage.
 
Past Medical History:
PMHx:  
HTN  
Cataract surgery  
HLD  
GERD  
PAD  
 
PSHx:  
Left rotator cuff surgery  
Bilateral cataract surgery  
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
Discharge Vital Signs:
98.1, 165/71, 66, 18, 95% RA

GEN: NAD
HEENT: NCAT, EOMI, no scleral icterus
CV: RRR
RESP: no respiratory distress, breathing comfortably on room air
GI: soft, non-TTP, no R/G/D
EXT: WWP, RUE in Sling, Deformity to lateral aspect of Right 
Clavicle
 
Pertinent Results:
___ 07:15AM BLOOD WBC-7.6# RBC-3.37* Hgb-10.3* Hct-31.1* 
MCV-92 MCH-30.6 MCHC-33.1 RDW-12.8 RDWSD-43.3 Plt ___
___ 11:40PM BLOOD Neuts-83.1* Lymphs-11.8* Monos-4.1* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-13.39* AbsLymp-1.90 
AbsMono-0.66 AbsEos-0.03* AbsBaso-0.04
___ 07:15AM BLOOD Glucose-125* UreaN-14 Creat-0.9 Na-137 
K-4.7 Cl-105 HCO3-21* AnGap-16
___ 07:15AM BLOOD Calcium-9.1 Phos-3.1 Mg-1.8

CT HEAD ___:
There is acute left temporal subarachnoid and subdural 
hemorrhage.  The 
subdural blood along the left frontoparietal and temporal 
regions is 
relatively thin, with a maximal thickness of 4 mm at the left 
temporal 
convexity (02:10) and 5 mm at the anterior inferior temporal 
convexity 
(602b:59).  Foci of subarachnoid blood (602b: 65, 66, 68) are 
scattered within the anterior left temporal sulci.  There is 
mild left temporal sulcal effacement but no uncal herniation.  
Sulcal prominence is indicative of age related involutional 
change.  Periventricular and subcortical white matter 
hypodensities suggest chronic microvascular ischemia. No 
fracture or scalp abnormality.  The paranasal sinuses are clear. 
Incidental note is made of bilateral optic drusen is a.  
Otherwise, the orbits are unremarkable. 
 
Brief Hospital Course:
Following diagnosis of her Intracranial Hemorrhage and Right 
Clavicular Fracture, the patient was noted to be substantially 
hypertensive in the ED (hypertensive urgency vs. emergency with 
SBP > 200). She was transferred to the ICU for monitoring and BP 
control for which she received a short course of IV Nicardipine. 
She had a good response and was weaned off the drip and placed 
on her home antihypertensive medications. The Neurosurgery team 
was also consulted in the ED for additional recommendations 
regarding her Left SAH and SDH. They recommended against any 
additional imaging and that her SBP should be < 160 mm Hg. She 
was transferred to the surgical floor for further care. 

Once on the floor, she was able to tolerate a regular diet, 
ambulate independently, void and demonstrate appropriate bowel 
function. Her right clavicular pain was controlled with pain 
medications by mouth only. Her blood pressure stabilized on her 
home medications and she was instructed that she should have 
close follow up with her PCP for adjustments in her 
anti-hypertensive regimen. She was given the appropriate 
medications and discharge instructions and was sent home. 
 
Medications on Admission:
Amlodipine 2.5 mg daily  
Losartan 100mg daily  
Omeprazole 40mg daily  
Sertraline 50mg daily  
Simvastatin 40mg daily  
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 2.5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*20 Tablet Refills:*0 
4.  amLODIPine 2.5 mg PO DAILY  
5.  Omeprazole 40 mg PO DAILY  
6.  Sertraline 50 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left Temporal SAH/SDH
Right Clavicular Fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Ms. ___, 

You were admitted to the Acute Care Surgery service at the ___ 
___ for ___ management of 
your traumatic injuries. You sustained a stable intracranial 
hemorrhage and a right sided clavicular fracture. The 
Neurosurgery team evaluated you and the head bleed has remained 
stable. They recommend good control of your blood pressure but 
you do not need any follow-up in the ___ clinic. Your 
clavicle fracture will heal on its own, you may wear the sling 
for comfort. Physical therapy worked with you and you are 
cleared for discharge home with home ___. You are now medicaly 
clear to return home to continue your recovery. Please note the 
following instructions : 

ACTIVITY:  
 o Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.  
 o You may climb stairs.  
 o You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.  

**You should continue to wear your right arm sling until you 
follow up with your surgeons in clinic. You should remain 
non-weight bearing on your right arm.

**You have Hypertension at baseline. Due to your intra-cranial 
hemorrhage, we recommend that pay particular attention to your 
blood pressure and keep you systolic blood pressure lower than 
160. You should be in close follow up with your PCP to monitor 
your BP and make the necessary adjustments. 

YOUR BOWELS:  
 o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.  
 o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.  

PAIN MANAGEMENT:  
 o It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness".  
 o Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon. 
 
 o You will receive a prescription for pain medicine to take by 
mouth. It is important to take this medicine as directed. o Do 
not take it more frequently than prescribed. Do not take more 
medicine at one time than prescribed.  
 o Your pain medicine will work better if you take it before 
your pain gets too severe.  
 o Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.  
 o If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.    
 
If you experience any of the following, please contact your 
surgeon:  
 - sharp pain or any severe pain that lasts several hours  
 - pain that is getting worse over time  
 - pain accompanied by fever of more than 101  
 - a drastic change in nature or quality of your pain  

MEDICATIONS:  
 Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.  
 If you have any questions about what medicine to take or not to 
take, please call your surgeon.  

Good Luck
 
Followup Instructions:
___